US08470884B2
To a stirred solution of 1-benzyloxy-3-chloromethyl-7-fluoro-2-methyl-naphthalene (18.5 g, 58.9 mmol) in a THF-methanol mixture (2:3; 500 mL) was added K2CO3 (8.94 g, 64.8 mmol) and PdCl2(PPh3)2 (2.06 g, 2.96 mmol) at room temperature. The solution was degassed by purging with argon for 5 minutes. The reaction mixture was stirred under a balloon of carbon monoxide overnight at room temperature. After this time, the reaction progress was monitored by TLC (5% ethyl acetate in hexanes). The reaction mixture was concentrated, and the obtained crude residue was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to give a crude product. Silica gel chromatography (100-200 mesh, 5% ethyl acetate-hexanes) yielded (4-benzyloxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid methyl ester (5.5 g, 97.8%) as a pale yellow solid. MS cald. for C21H20FO3 [(M+H)+]: 339, obsd. 339.0.

reactant | 1-benzyloxy-3-chloromethyl-7-fluoro-2-methyl-naphthalene | 58.9 mmol, 18.5 g | C(C1=CC=CC=C1)OC1=C(C(=CC2=CC=C(C=C12)F)CCl)C | C19H16ClFO
reactant | THF methanol | 500 mL | C1CCOC1.CO
reactant | K2CO3 | 64.8 mmol, 8.94 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
catalyst | PdCl2(PPh3)2 | 2.96 mmol, 2.06 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-benzyloxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid methyl ester | 5.5 g, 97.8% | COC(CC1=CC2=CC=C(C=C2C(=C1C)OCC1=CC=CC=C1)F)=O | C21H19FO3
